US08802864B2
a) [(4-bromo-2-fluoro-6-formylphenyl)oxy]acetic Acid
A solution of 5-bromo-3-fluoro-2-hydroxybenzaldehyde (4.57 mmol) in acetonitrile (30 mL) was treated with potassium carbonate (12.66 mmol). The reaction mixture was stirred for 30 min and was then treated with methyl bromoacetate (5.48 mmol). The resulting mixture was stirred at room temperature overnight. Analysis by LCMS indicated the formation of the desired intermediate ester, and the reaction mixture was concentrated to dryness in vacuo. The crude material was dissolved in a 3:1 methanol:water mixture (20 mL) and was heated to 50° C. with stirring for 2 h. The reaction was then cooled to room temperature and was acidified to pH˜3 using 1N aq HCl. The methanol was removed in vacuo and the resulting aqueous suspension was diluted with water (100 mL) and was extracted with ethyl acetate. The combined organic layers were washed with saturated aqueous sodium bicarbonate, dried over magnesium sulfate, filtered, and concentrated in vacuo to give the crude title product. The beige solid was used without further purification (1.05 g, 83% yield). MS(ES)+ m/e 276.9, 278.9 [M+H]+.

reactant | 5-bromo-3-fluoro-2-hydroxybenzaldehyde | 4.57 mmol | BrC=1C=C(C(=C(C=O)C1)O)F | C7H4BrFO2
reactant | potassium carbonate | 12.66 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 5.48 mmol | BrCC(=O)OC | C3H5BrO2
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | [(4-bromo-2-fluoro-6-formylphenyl)oxy]acetic Acid | 83% yield | BrC1=CC(=C(C(=C1)C=O)OCC(=O)O)F | C9H6BrFO4
